Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[O:1]=[C:2][H:3].[O:4][H:5]>>[O:1]=[C:2]([H:3])[O:4][H:5],-6.022255122969999
[H:1][C:2][O:3]/[C:4]([O:5][H:6])=[C:7](/[H:8])[C:9]([H:10])[H:11]>>[H:1][C:2].[O:3]=[C:4]([O:5][H:6])[C:7]([H:8])=[C:9]([H:10])[H:11],2.46273404709
[C:11]([H:12])[H:13].[H:1][O:2][C:3]([H:4])([H:5])[O:6][C:7]([H:8])([H:9])[C:10]>>[H:1][O:2][C:3]([H:4])([H:5])[O:6][C:7]([H:8])([H:9])[C:10]=[C:11]([H:12])[H:13],-7.618136165389999
[C:1]#[C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]=[O:10]>>[C:1]#[C:2][C:3]([H:4])([H:5])[C:6]([H:7])[H:8].[C:9]=[O:10],1.0913119329899998
[C:5]#[C:6][C:7]([H:8])([H:9])[O:10][H:11].[H:1][C:2]#[C:3][H:4]>>[H:1][C:2]=[C:3]([H:4])[C:5]#[C:6][C:7]([H:8])([H:9])[O:10][H:11],-3.19371303071
[C:5]([H:6])([H:7])[O:8][C:9]([H:10])([H:11])[C:12]([H:13])[H:14].[O:1]=[C:2]([H:3])[H:4]>>[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[O:8][C:9]([H:10])([H:11])[C:12]([H:13])[H:14],-0.651064030001
[H:5].[O:1]=[C:2]=[C:3]([H:4])[C:6]([H:7])([H:8])[C:9](=[O:10])[H:11]>>[O:1]=[C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9](=[O:10])[H:11],-2.04797951965
[C:5][H:6].[O:1]=[C:2]([C:3]#[C:4])[C:7]([H:8])([H:9])[H:10]>>[O:1]=[C:2]([C:3][C:4]#[C:5][H:6])[C:7]([H:8])([H:9])[H:10],-7.693164585710001
[C:1]#[C:2]/[C:3]([H:4])=[C:5](\[H:6])[C:7]([H:8])[H:9]>>[C:1][C:2]#[C:3][C:5]([H:6])=[C:7]([H:8])[H:9].[H:4],3.9376682983699993
[O:1]=[C:2]=[C:3][C:4]([H:5])([H:6])[C:7]([H:8])[C:9]([H:10])([H:11])[H:12]>>[H:6].[O:1]=[C:2]=[C:3]/[C:4]([H:5])=[C:7](\[H:8])[C:9]([H:10])([H:11])[H:12],1.28327990942
[O:1][C:2]([H:3])([H:4])[C:5]#[C:6].[O:7]=[C:8]([H:9])[H:10]>>[O:1][C:2]([H:3])([H:4])[C:5]#[C:6][O:7][C:8]([H:9])[H:10],-2.31428567569
[H:1][O:2][C:3]([H:4])[C:5]#[C:6][C:7]([H:8])[C:9]([H:10])([H:11])[H:12]>>[H:1][O:2][C:3][C:5]#[C:6][C:7]([H:8])[C:9]([H:10])([H:11])[H:12].[H:4],4.3920208475
[O:1][C@:2]([H:3])([O:4][H:5])/[C:6]([H:7])=[C:8](\[H:9])[C:10]([H:11])([H:12])[H:13]>>[C:6]([H:7])=[C:8]([H:9])[C:10]([H:11])([H:12])[H:13].[O:1]=[C:2]([H:3])[O:4][H:5],0.65844596156
[H:1][O:2][C:3](=[C:4]([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16]>>[H:12].[H:1][O:2][C:3](=[C:4]([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])[C:13]([H:14])([H:15])[H:16],4.35191671152
[C:1]=[C:2]1[O:3][C:4]([H:5])[O:6]1>>[C:1]#[C:2][O:6][C:4](=[O:3])[H:5],-0.97217732749
[H:1][C:2][O:3]/[C:4]([H:5])=[C:6](/[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13]>>[C:7]([H:8])[H:9].[H:1][C:2][O:3]/[C:4]([H:5])=[C:6]/[C:10]([H:11])([H:12])[H:13],6.340639221830001
[O:1]=[C:2]=[C:3]([H:4])[H:5].[O:6][H:7]>>[O:1]=[C:2][C:3]([H:4])([H:5])[O:6][H:7],-2.77124331138
[H:1][C:2]=[C:3]([O:4][H:5])/[C:6]([H:7])=[C:8](\[H:9])[O:10][H:11]>>[C:3]([O:4][H:5])/[C:6]([H:7])=[C:8](\[H:9])[O:10][H:11].[H:1][C:2],6.7353791774300005
[H:1][O:2][C:3]([O:4][C:5]([H:6])([H:7])[H:8])=[C:9]([H:10])[H:11]>>[H:1][O:2][C:3]([O:4][C:5]([H:6])[H:7])=[C:9]([H:10])[H:11].[H:8],4.3619003243
[H:1].[O:2]=[C:3][C:4]([H:5])([H:6])[C@@:7]([H:8])([O:9][H:10])[C:11]([H:12])([H:13])[H:14]>>[H:1][O:2][C:3][C:4]([H:5])([H:6])[C@@:7]([H:8])([O:9][H:10])[C:11]([H:12])([H:13])[H:14],-1.75696118657
[C:2]#[C:3][C:4]([H:5])[C:6]([H:7])([H:8])[C:9][C:10]([H:11])([H:12])[H:13].[H:1]>>[H:1][C:2]#[C:3][C:4]([H:5])[C:6]([H:7])([H:8])[C:9][C:10]([H:11])([H:12])[H:13],-4.565940943859999
[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])[O:9][C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16].[H:8]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[O:9][C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16],-4.20798108316
[C:1]#[C:2][C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])[H:13]>>[C:1]#[C:2][C:3]([H:4])=[C:11]([H:12])[H:13].[C:5]([H:6])([H:7])=[C:8]([H:9])[H:10],0.27657647789
[H:1][C:2]#[C:3][C:4]([H:5])([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13]>>[C:2]#[C:3][C:4]([H:5])([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13].[H:1],5.95926848824
[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12]>>[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12].[H:1][O:2][C:3]([H:4])[H:5],3.77255242889
[H:1][C:2]#[C:3]/[C:4]([H:5])=[C:6](\[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14]>>[H:10].[H:1][C:2]#[C:3][C:4]([H:5])/[C:6]([H:7])=[C:8](\[H:9])[C:11]([H:12])([H:13])[H:14],3.44023233994
[H:1][O:2]/[C:3]=[C:5](\[O:6][C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14].[H:4]>>[H:1][O:2]/[C:3]([H:4])=[C:5](\[O:6][C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14],-4.78951229706
[H:1]/[C:2]([C:3]([H:4])([H:5])[H:6])=[C:7]1\[C:9][O:10][C:11]1([H:12])[H:13].[H:8]>>[H:1][C:2]([C:3]([H:4])([H:5])[H:6])[C@:7]1([H:8])[C:9][O:10][C:11]1([H:12])[H:13],-1.72587125333
[O:1]=[C:2]([H:3])[H:4].[O:5][C:6]([H:7])([H:8])[C:9]([H:10])=[C:11]([H:12])[H:13]>>[O:1][C:2]([H:3])([H:4])[O:5][C:6]([H:7])([H:8])[C:9]([H:10])=[C:11]([H:12])[H:13],-0.84337889778
